US07053212B2
Step A: 2-Cyano-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide
To a solution of [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amine (0.091 g, 0.23 mmol) and triethylamine (0.097 mL, 0.69 mmol) in 2 mL methylene chloride was added 2-cyanobenzenesulfonyl chloride (0.093 g, 0.46 mmol). The reaction mixture was stirred at room temperature for 24 hr. Saturated aqueous sodium bicarbonate was added and the layers were separated. The aqueous layer was washed with an additional 2 mL of methylene chloride. The combined organic layers were concentrated to afford the title compound of Step A.

reactant | [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 0.23 mmol, 0.091 g | N1(CCCC1)CCOC1=CC=C(C=C1)NCC1=CC(=CC=C1)OC1OCCCC1 | C24H32N2O3
reactant | triethylamine | 0.69 mmol, 0.097 mL | C(C)N(CC)CC | C6H15N
reactant | 2-cyanobenzenesulfonyl chloride | 0.46 mmol, 0.093 g | C(#N)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-Cyano-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | C(#N)C1=C(C=CC=C1)S(=O)(=O)N(CC1=CC(=CC=C1)OC1OCCCC1)C1=CC=C(C=C1)OCCN1CCCC1 | C31H35N3O5S
